US04207320
10-(1,1-Dimethylethyl)-3-(2,2-dimethylhydrazino)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide
A mixture of 1.46 g. of 10-(1,1-dimethylethyl)-3-fluoroimidazo-[1,2-a:3,4-a']diquinolin-15-ium iodide, 1.64 ml. of 1,1-dimethylhydrazine and 25 ml. of N-methyl-2-pyrrolidinone is heated at reflux for 15 hours, then cooled and diluted with 300 ml. of ethyl acetate. The precipitate is collected and stirred with 1% aqueous triethylamine hydroiodide. The solid is collected, washed with water and dissolved in 150 ml. of hot methanol. The methanol solution is treated with activated charcoal, filtered, evaporated to a volume of about 25 ml. and cooled. The resulting precipitate of 10-(1,1-dimethylethyl)-3-(2,2-dimethylhydrazino)imidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration, washed with cold methanol and dried; m.p. 347°-350° C., after two crystallizations from 2-propanol/ethanol.

reactant | 10-(1,1-dimethylethyl)-3-fluoroimidazo-[1,2-a:3,4-a']diquinolin-15-ium iodide | [I-].CC(C)(C)C1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC(=CC2C=C1)F)C3
reactant | 1,1-dimethylhydrazine | CN(N)C | C2H8N2
reactant | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 10-(1,1-Dimethylethyl)-3-(2,2-dimethylhydrazino)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].CC(C)(C)C1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC(=CC2C=C1)NN(C)C)C3 | InChI=1S/C25H27N4.HI/c1-25(2,3)19-8-11-23-17(14-19)6-10-21-16-28-22-12-9-20(26-27(4)5)15-18(22)7-13-24(28)29(21)23;/h6-16,26H,1-5H3;1H/q+1;/p-1
